* C:\Users\Death\OneDrive\Desktop\Eng Inf\1º-1S\física aplicada\LTspice\Draft3a.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 12 Rser=10
R1 N001 0 20 tol=5 pwr=10
R2 N001 0 10
R3 N001 0 40
.tran 0 10s 5s 0.0001
.backanno
.end
